US07915424B2
2-Fluoro-5-(5-methoxypyridin-3-ylethynyl)-benzoic acid
Add bis(triphenylphosphine)palladium (II) dichloride (70 mg, 0.10 mmol), copper (I) iodide (38 mg, 0.20 mmol), and 3-ethynyl-5-methoxypyridine, (prepared as described in PREPARATION 10), (400 mg, 3.0 mmol) to a solution of 2-fluoro-5-iodobenzoic acid (0.53 g, 2.0 mmol) in triethylamine (4.2 mL, 30.0 mmol) and stir at room temperature for 1 h. Heat at 50° C. for 18 h. Cool to room temperature and concentrate. Purify by silica gel chromatography, eluting with 100:0 to 60:40 ethyl acetate:methanol. Triturate the resulting solid with 3:1 hexanes:methanol to give the title compound as an off-white solid (295 mg, 54%).

reactant | 3-ethynyl-5-methoxypyridine | 3.0 mmol, 400 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
reactant | 2-fluoro-5-iodobenzoic acid | 2.0 mmol, 0.53 g | FC1=C(C(=O)O)C=C(C=C1)I | C7H4FIO2
reactant | triethylamine | 30.0 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.10 mmol, 70 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.20 mmol, 38 mg | [Cu]I
product | 2-Fluoro-5-(5-methoxypyridin-3-ylethynyl)-benzoic acid | 295 mg, 54% | FC1=C(C(=O)O)C=C(C=C1)C#CC=1C=NC=C(C1)OC | C15H10FNO3
